US06794403B2
Step b) 2-(5-Hydroxy-1,3-benzoxazol-2-yl) benzene-1,4-diol
A mixture of N-(2,5-dimethoxyphenyl)-2,5-dimethoxybenzamide (1.0 g, 3.1 mmol) and pyridine hydrochloride (2.0 g, 17.3 mmol) was stirred at 200° C. for 1 h. The mixture was cooled to room temperature and HCl (10 mL, 2 N) was added. The mixture was then extracted with EtOAc and the organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography (hexanes/EtOAc 2/1) gave a white solid (0.8 g, 76% yield, m.p. 309-311° C.); MS m/e 242 (M−H)+.

reactant | N-(2,5-dimethoxyphenyl)-2,5-dimethoxybenzamide | 3.1 mmol, 1.0 g | COC1=C(C=C(C=C1)OC)NC(C1=C(C=CC(=C1)OC)OC)=O | C17H19NO5
reactant | pyridine hydrochloride | 17.3 mmol, 2.0 g | Cl.N1=CC=CC=C1
solvent | HCl | 2 N, 10 mL | Cl | ClH
product | 2-(5-Hydroxy-1,3-benzoxazol-2-yl) benzene-1,4-diol | 0.8 g, 76% yield | OC=1C=CC2=C(N=C(O2)C2=C(C=CC(=C2)O)O)C1 | C13H9NO4
